* ============================================================================
* 909 Mid Tom — Single Bridged-T Resonator (Behavioral State-Space Equivalent)
* PedalKernel SPICE Golden Reference
*
* TOPOLOGY NOTE: Single bridged-T Sallen-Key resonator at ~125 Hz. Same
* behavioral state-space approach as 909_lo_tom.spice. The authentic TR-909
* MT uses a transistor VCO; the .pedal approximates with bridged-T.
*
* PARAMETERS (from 909_mid_tom.pedal — pedalkernel-pro, private):
*   R1 = R2 = 270kΩ, C1 = C2 = 4.7nF
*   f0 = 1 / (2π·R·C) = 1 / (2π·270k·4.7n) = 125.3 Hz
*   r_crit = R1+R2+R1·(C1/C2) = 270k+270k+270k = 810kΩ
*   R_fb = 1000kΩ  →  Q = 1000 / (1000−810) = 5.26
*   zeta = 1/(2·Q) = 0.0951
*   omega0 = 2π·125.3 = 787.1 rad/s
*   2·zeta·omega0 = 149.7
*
* TOPOLOGY GAP: Authentic TR-909 MT uses a UJT relaxation oscillator with
* exponential pitch decay. PitchEnvelope DSP (decay=30ms, amount=0.5) not in SPICE.
*
* STATE-SPACE MODEL:
*   dx/dt  = ω₀ · v
*   dv/dt  = −ω₀·x − 2ζω₀·v + ω₀·u(t)
*   y = x
*
* VERIFIED: f0 = 125.3 Hz (theory), Q = 5.26
* ============================================================================

* --- State variable: v_x (position / oscillator voltage) ---
Cx v_x 0 1

* G-source: dv_x/dt = omega0 * v_v
Gx_v 0 v_x v_v 0 787.1

* --- State variable: v_v (velocity, scaled by 1/omega0) ---
Cv v_v 0 1

* G-source: −omega0 * v_x  (restoring force)
Gv_x 0 v_v v_x 0 -787.1

* G-source: −2·zeta·omega0 * v_v  (damping)
Gv_v 0 v_v v_v 0 -149.7

* G-source: omega0 * trigger input
Gv_in 0 v_v v_in 0 787.1

* --- Output mapping ---
Bout v_out 0 V = v(v_x)
Rload_out v_out 0 100k
